US07582626B2
a) Methyl (1R,2S)-2-[(3-methylbenzyl)amino]cyclopentanecarboxylate
To a stirred solution of methyl (1R,2S)-2-aminocyclopentanecarboxylate (240 mg, 1.68 mmol) in methanol (10 mL) under a nitrogen atmosphere, 3-methyl-benzaldehyde (202 mg, 1.68 mmol) was added. The mixture was stirred for 10 min, and then acetic acid (0.4 mL) was added followed by sodium cyanoborohydride (265 mg, 4.2 mmol). The resulting mixture was stirred at 25° C. for 16 h, and then poured into a mixture of saturated aqueous sodium bicarbonate solution (50 mL) and ethyl acetate (100 mL). The layers were separated and the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with saturated aqueous brine solution, dried over magnesium sulfate and filtered. The filtrate was concentrated in vacuo to afford the desired product, methyl (1R,2S)-2-[(3-methylbenzyl)amino]cyclopentanecarboxylate (330 mg, 1.34 mmol, 80%), as a clear oil. 1H NMR (400 MHz, CDCl3) δ: 1.62 (1H, m), 1.71 (1H, m), 1.91 (3H, m), 2.05 (1H, m), 2.37 (3H, s), 2.99 (1H, m), 3.34 (1H, m), 3.72 (3H, s), 3.77 (1H, d, J=12.8 Hz), 3.82 (1H, d, J=12.8 Hz), 7.24-7.07 (4H, m).

reactant | methyl (1R,2S)-2-aminocyclopentanecarboxylate | 1.68 mmol, 240 mg | N[C@@H]1[C@@H](CCC1)C(=O)OC | C7H13NO2
reactant | 3-methyl-benzaldehyde | 1.68 mmol, 202 mg | CC=1C=C(C=O)C=CC1 | C8H8O
reactant | sodium cyanoborohydride | 4.2 mmol, 265 mg | C(#N)[BH3-].[Na+]
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
solvent | methanol | 10 mL | CO | CH4O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 0.4 mL | C(C)(=O)O | C2H4O2
product | methyl (1R,2S)-2-[(3-methylbenzyl)amino]cyclopentanecarboxylate | 1.34 mmol, 330 mg, 80% | CC=1C=C(CN[C@@H]2[C@@H](CCC2)C(=O)OC)C=CC1 | C15H21NO2
